US04419443
In a 5-liter three neck distillation flask were placed 1.5 l of ethanol, 92 g of metallic sodium, 472 g of ethyl α-hydroxyisobutyrate (4 mole), and 240 g of urea (4 mole). The mixture was heated and stirred on hot oil bath at 100° C. for 18 hours. After ethanol and methanol were distilled off from the reaction mixture and then 2 l of water was added therefor, the mixture was made acid with aqueous hydrochloric acid solution and then extracted twice with ethyl acetate. The extract was dried with Glauber's salt, and then filtered. The solvent was distilled off from the extract to obtain 270 g of 5,5-dimethylhydantoin having a melting point of 75° C.

reactant | sodium | 92 g | [Na] | Na
reactant | ethyl α-hydroxyisobutyrate | 4 mole, 472 g | OC(C(=O)OCC)(C)C | C6H12O3
reactant | urea | 4 mole, 240 g | NC(=O)N | CH4N2O
solvent | ethanol | 1.5 l | C(C)O | C2H6O
product | 5,5-dimethylhydantoin | 270 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
